US06921763B2
A suspension of trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide di-maleate (0.200 g, 0.242 mmol) in dichloromethane (15 mL) was treated with 1N sodium hydroxide solution. The reaction mixture was stirred for 1 h at room temperature. The layers were partitioned using an Empore extraction cartridge. The organic layer was removed by blowing nitrogen over the top of the solvent to give 0.072 g (50%) of trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide.

reactant | trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide di-maleate | 0.242 mmol, 0.200 g | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide | 0.072 g, 50% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C33H39N9O2
